US04837327
A reaction mixture generated from 100 mg (0.52 mmol) of difluoromethyl phenyl sulfone, 225 mg (1.6 mmol) of 4-chlorobenzaldehyde, 1.5 mL of dichloromethane, 1 mL of 50% aqueous sodium hydroxide and 20 mg (0.050 mmol) of Aliquat 336 was poured into 20 mL of IN HCl. Extraction of the aqueous mixture with three 10 mL portions of ethyl acetate followed by combination, drying (MgSO4), and concentration in vacuo of the organic layers gave a residue which was purified by preparative TLC (two 2 mm silica gel plates eluted with 10% ethyl acetate in toluene), affording 153 mg (88% yield) of 1-(4-chlorophenyl)-2,2-difluoro-2-phenylsulfonylethanol as a solid. Crystallization from toluene provided an analytical sample: mp; 100°-102° C; IR (KBr) 3530, 3060, 2921, 1491, 1446, 1332, 1157, 1120, 1113, 1090, 1016, 1005, 784, 723, 683, 589, 538 cm-1 ; 1H NMR (CDCl3) 6 3.62 (broad s, IH), 5.56 (dd, IH, J =20, 3 Hz), 7.26-8.13 (m, 9H); 19F NMR (CDCl3, relative to CFCl3) -104.8 ppm (dd, IF, JFF =238 Hz, JHF =3 Hz), -119.2 ppm (dd, lF, JFF =238 Hz, JHF =20 Hz); mass spectrum (70 eV) m/e (relative intensity) 332 (9, M+), 143(44), 141(100), 77(33). Anal. Calcd. for C14H11ClF2O3S: C, 50.53; H, 3.33. Found: C, 50.49; H, 3.41.

reactant | difluoromethyl phenyl sulfone | 0.52 mmol, 100 mg | C1(=CC=CC=C1)S(=O)(=O)C(F)F | C7H6F2O2S
reactant | 4-chlorobenzaldehyde | 1.6 mmol, 225 mg | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
reactant | sodium hydroxide | 1 mL | [OH-].[Na+]
catalyst | Aliquat 336 | 0.050 mmol, 20 mg | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | HCl | Cl | ClH
product | 1-(4-chlorophenyl)-2,2-difluoro-2-phenylsulfonylethanol | 153 mg, 88% yield | ClC1=CC=C(C=C1)C(C(S(=O)(=O)C1=CC=CC=C1)(F)F)O | C14H11ClF2O3S
